US05399613
Pyrogallol (200 g) was dissolved in 1.4 kg of acetone, and 20 g of phosphorus oxychloride was added to the solution obtained. The resulting mixture was allowed to stand at room temperature overnight. The mixture was then added dropwise to water under stirring. The sediment formed was filtered off, washed with a small amount of acetone, and the acetone solution thus obtained was poured into a plenty amount of water. The sediment formed in the water was filtered off and dried to give a pyrogallol-acetone condensate. The melting point was measured to be 200°-210° C.

reactant | Pyrogallol | 200 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | phosphorus oxychloride | 20 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
solvent | acetone | 1.4 kg | CC(=O)C | C3H6O
product | pyrogallol acetone | C1(O)=C(O)C(O)=CC=C1.CC(=O)C | InChI=1S/C6H6O3.C3H6O/c7-4-2-1-3-5(8)6(4)9;1-3(2)4/h1-3,7-9H;1-2H3
